US06664291B2
N-[3,5-Dichloro-4-(4-hydroxy-3-nonylcarbamoyl-phenoxy)-phenyl]-malonamic acid methyl ester
To a solution of 5-(4-amino-2,6-dichloro-phenoxy)-2-hydroxy-N-nonyl-benzamide (75 mg, 0.17 mmol) in dry THF (2 ml) at RT was added methyl malonyl chloride (19 μl, 0.18 mmol) with stirring. The resulting mixture was stirred at RT for 2 h then concentrated in vacuo. The residue was purified by preparative TLC (2% MeOH in CH2Cl2) to give the title compound of Step F (78 mg) as a solid. MS (APCl+) Calc.: 538.2, Found: 539.1 (M+1).

reactant | 5-(4-amino-2,6-dichloro-phenoxy)-2-hydroxy-N-nonyl-benzamide | 0.17 mmol, 75 mg | NC1=CC(=C(OC=2C=CC(=C(C(=O)NCCCCCCCCC)C2)O)C(=C1)Cl)Cl | C22H28Cl2N2O3
reactant | methyl malonyl chloride | 0.18 mmol, 19 μl | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[3,5-Dichloro-4-(4-hydroxy-3-nonylcarbamoyl-phenoxy)-phenyl]-malonamic acid methyl ester | 78 mg | COC(CC(=O)NC1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)O)C(NCCCCCCCCC)=O)Cl)=O | C26H32Cl2N2O6
